US08445509B2
Production of 1-(4-fluorophenyl)-5,6-dimethyl-2-oxo-1,2-dihydropyridine-3-carbonitrile
To a solution of 5-bromo-1-(4-fluorophenyl)-6-methyl-2-oxo-1,2-dihydropyridine-3-carbonitrile (200 mg, 0.651 mmol) in N,N-dimethylformamide (2 mL) were added tetramethyltin (582 mg, 3.255 mmol) and tetrakistriphenylphosphinepalladium(0) (22.3 mg, 0.019 mmol), and the mixture was stirred at 120° C. for 17 hr. Water and ethyl acetate were added to the reaction mixture, and the mixture was extracted 3 times with ethyl acetate. The organic layer was washed with saturated brine, and the solvent was evaporated under reduced pressure. The obtained residue was washed with diethyl ether and collected by filtration to give the title compound (94 mg, 60%) as a white solid.

reactant | 5-bromo-1-(4-fluorophenyl)-6-methyl-2-oxo-1,2-dihydropyridine-3-carbonitrile | 0.651 mmol, 200 mg | BrC=1C=C(C(N(C1C)C1=CC=C(C=C1)F)=O)C#N | C13H8BrFN2O
reactant | tetramethyltin | 3.255 mmol, 582 mg | C[Sn](C)(C)C
reactant | Water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
catalyst | tetrakistriphenylphosphinepalladium(0) | 0.019 mmol, 22.3 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-(4-fluorophenyl)-5,6-dimethyl-2-oxo-1,2-dihydropyridine-3-carbonitrile | 94 mg, 60% | FC1=CC=C(C=C1)N1C(C(=CC(=C1C)C)C#N)=O | C14H11FN2O
